US07615672B2
reacting 2,4-alkaneanedione with 1-bromooctadecane in absolute ethanol in the presence of 18-crown-6 as catalyst to produce 2-heneicosanone; and (b) reducing said 2-heneicosanone using hydrazine hydrate and potassium hydroxide in ethylene glycol to obtain n-heneicosane.

reactant | 2-heneicosanone | CC(CCCCCCCCCCCCCCCCCCC)=O | C21H42O
reactant | hydrazine hydrate | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | n-heneicosane | CCCCCCCCCCCCCCCCCCCCC | C21H44
